US06069156
To a solution of methyl 3-acetyl-2-propylindole-6-carboxylate (74 mg) in dimethylformamide (1.4 ml) was added sodium hydride (60%, 15.4 mg). The mixture was stirred at 20° C. for 30 minutes, then 2-chlorobenzyl bromide (0.045 ml) was added. After stirred for 1 hour, the mixture was diluted with ethyl acetate and washed with water and brine. The organic phase was dried over sodium sulfate and evaporated in vacuo to give methyl 3-acetyl-1-(2-chlorobenzyl)-2-propylindole-6-carboxylate (125 mg) as solid.

reactant | methyl 3-acetyl-2-propylindole-6-carboxylate | 74 mg | C(C)(=O)C1=C(NC2=CC(=CC=C12)C(=O)OC)CCC | C15H17NO3
reactant | sodium hydride | 15.4 mg | [H-].[Na+]
reactant | 2-chlorobenzyl bromide | 0.045 ml | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
solvent | dimethylformamide | 1.4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-acetyl-1-(2-chlorobenzyl)-2-propylindole-6-carboxylate | 125 mg | C(C)(=O)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CC1=C(C=CC=C1)Cl)CCC | C22H22ClNO3
